US07655396B1
Membranes are incubated in 25 mM Tris (pH 7.6), 0.2% BSA, 2.6 mM Mg, 0.8 mM ATP, 0.1 mM GTP, 5 mM creatine phosphate, 50 U/ml creatine kinase, 0.2 mM IBMX at 32° C. Prospective ligands are added and incubation is continued for another 15 minutes. The amount of cAMP produced is assayed using an fluorescent immunoassay method.

reactant | ATP | 0.8 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | GTP | 0.1 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(=O)NC(N)=NC12)O)O | C10H16N5O14P3
reactant | creatine phosphate | 5 mM | P(=O)(O)(O)O.O=C(O)CN(C)C(N)=N
reactant | creatine | O=C(O)CN(C)C(N)=N | C4H9N3O2
reactant | IBMX | 0.2 mM | CC(C)CN1C2=C(C(=O)N(C1=O)C)NC=N2 | C10H14N4O2
solvent | Tris | 25 mM, pH 7.6 | C(C(CO)(CO)N)O | C4H11NO3
product | cAMP | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)O)N | C10H12N5O6P
